US03978065
3,5-Dimethoxy-4-isopropyl-benzoyl chloride. The compound prepared under G) is first reacted with aziridine according to the procedure described by D. Haidukewych et al., Tetrahedron Letters, 30, 3031-3034, 1972, obtaining 4-acetyl-3,5-dimethoxy-1-(2-oxazolinyl)-benzene, m.p. 135°-37°C (diethyl ether). This compound is reacted with magnesium methyl iodide and 2-[2,6-dimethoxy-4-(2-oxazolinyl)]phenyl-2-propanol is obtained (m.p. 113°-16°C, from diisopropylether), from which, by treatment with sulphuric acid 3,5-dimethoxy-4-isopropenyl-benzoic acid is prepared. M.p. 169°-73°C (from ethanol/water). Said compound is hydrogenated to 3,5-dimethoxy-4-isopropyl-benzoic acid(m.p. 180°-83°C, from diethylether/light petroleum): the corresponding chloride melts at 75°-78°C (from light petroleum upon cooling).

reactant | 3,5-Dimethoxy-4-isopropyl-benzoyl chloride | COC=1C=C(C(=O)Cl)C=C(C1C(C)C)OC | C12H15ClO3
reactant | aziridine | N1CC1 | C2H5N
reactant | diethyl ether | C(C)OCC | C4H10O
product | 4-acetyl-3,5-dimethoxy-1-(2-oxazolinyl)-benzene | C(C)(=O)C1=C(C=C(C=C1OC)C=1OCCN1)OC | C13H15NO4
